US07538241B2
In an argon atmosphere, triethylsilane (0.15 mL, 0.94 mmol) and tris(triphenylphosphine)rhodium(I) chloride (30 mg, 0.032 mmol) were added to toluene (2.0 mL) solution of methyl 3-{5-[3-bromo-2-(methoxycarbonylmethyl)-4,6-bis(methoxymethoxy)phenyl]furan-2-yl}acrylate (89 mg, 0.18 mmol) obtained in the above, and stirred at 50° C. for 3 hours. The reaction solution was concentrated, and the residue was purified through silica chromatography (n-hexane to ethyl acetate/n-hexane=1/2) to obtain methyl 3-{5-[3-bromo-2-(methoxycarbonylmethyl)-4,6-bis(methoxymethoxy)phenyl]furan-2-yl}propanoate. Then, the resulting compound was dissolved in methanol solution (5.0 mL) of 10% hydrochloric acid, stirred at room temperature for 2 hours, and then concentrated under reduced pressure. The resulting residue was purified through preparative thin-layer chromatography (methanol/chloroform=1/9) to obtain Compound 267 (35 mg, 48%).

reactant | triethylsilane | 0.94 mmol, 0.15 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | methyl 3-{5-[3-bromo-2-(methoxycarbonylmethyl)-4,6-bis(methoxymethoxy)phenyl]furan-2-yl}acrylate | 0.18 mmol, 89 mg | BrC=1C(=C(C(=CC1OCOC)OCOC)C1=CC=C(O1)C=CC(=O)OC)CC(=O)OC | C21H23BrO9
catalyst | tris(triphenylphosphine)rhodium(I) chloride | 0.032 mmol, 30 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-{5-[3-bromo-2-(methoxycarbonylmethyl)-4,6-bis(methoxymethoxy)phenyl]furan-2-yl}propanoate | BrC=1C(=C(C(=CC1OCOC)OCOC)C1=CC=C(O1)CCC(=O)OC)CC(=O)OC | C21H25BrO9
